US09120749B2
2-Chloro-4-[4-{4-[1-(dimethylamino)ethyl]piperidin-1-yl}-3-(methylsulfonyl)quinolin-6-yl]-6-methoxyphenol
Following general procedure D, 1-{1-[6-bromo-3-(methylsulfonyl)quinolin-4-yl]piperidin-4-yl}-N,N-dimethylethanamine (35 mg, 0.079 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (43 mg, 0.150 mmol) to afford the desired product (22.6 mg, 55%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.22 (s, 1H), 8.41 (s, 1H), 8.20-8.15 (m, 2H), 7.33 (d, J=2.1 Hz, 1H), 7.25 (d, J=2.1 Hz, 1H), 4.00 (s, 3H), 3.71 (t, J=11.8 Hz, 2H), 3.56 (d, J=11.9 Hz, 2H), 3.49-3.42 (m, 3H), 2.96 (s, 1H), 2.64 (s, 6H), 2.10-1.90 (m, 3H), 1.82-1.63 (m, 2H), 1.26 (d, J=6.7 Hz, 3H); ESI MS m/z 518 [C26H32ClN3O4S+H]+; HPLC 98.8% (AUC), tR=10.97 min.

reactant | 1-{1-[6-bromo-3-(methylsulfonyl)quinolin-4-yl]piperidin-4-yl}-N,N-dimethylethanamine | 0.079 mmol, 35 mg | BrC=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)N1CCC(CC1)C(C)N(C)C | C19H26BrN3O2S
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.150 mmol, 43 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | 2-Chloro-4-[4-{4-[1-(dimethylamino)ethyl]piperidin-1-yl}-3-(methylsulfonyl)quinolin-6-yl]-6-methoxyphenol | 22.6 mg, 55% | ClC1=C(C(=CC(=C1)C=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)N1CCC(CC1)C(C)N(C)C)OC)O | C26H32ClN3O4S
